US05045621
After 60 mL of water, 60 ml of diethyl ether, and 7 g (83 mmol) of sodium bicarbonate had been placed into a four-necked flask, the temperature was lowered to 0° C. Next, 15 g (68 mmol) of 3-methacryloxypropyldimethylchlorosilane were added dropwise into the resulting mixture, which was being agitated, via a dropping funnel. After the reaction had been completed, the ether layer was separated and then washed with water once. After the ether had subsequently been distilled and removed at room temperature and reduced pressure, 3-methacryloxypropyldimethylsilanol (hereafter, "MPOH") was obtained. The structure of said compound was verified by gas chromatographic analysis (GLC) and nuclear magnetic resonance analysis (NMR).

reactant | water | 60 mL | O | H2O
reactant | sodium bicarbonate | 83 mmol, 7 g | C([O-])(O)=O.[Na+]
reactant | 3-methacryloxypropyldimethylchlorosilane | 68 mmol, 15 g | C(C(=C)C)(=O)OCCC[Si](Cl)(C)C | C9H17ClO2Si
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 3-methacryloxypropyldimethylsilanol | C(C(=C)C)(=O)OCCC[Si](O)(C)C | C9H18O3Si
